US04405628
1,3-Dihydro-4-ethyl-5-nicotinoyl-2H-imidazole-2-one
To a well stirred mixture of 8.85 g (50 mmole) nicotinoyl chloride hydrochloride and 5.6 g (50 mmole) 1,3-dihydro-4-ethyl-2H-imidazole-2-one in 100 ml tetrachloroethane is added 22 g (164 mmole) aluminum chloride. The mixture is heated at 85° C. for 2 hours and treated with water. The solution is neutralized with sodium bicarbonate, filtered and taken to dryness. Chromatography over silica gel affords the title compound; m.p. 219°-21°.

reactant | nicotinoyl chloride hydrochloride | 50 mmole, 8.85 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 1,3-dihydro-4-ethyl-2H-imidazole-2-one | 50 mmole, 5.6 g | C(C)C=1NC(NC1)=O | C5H8N2O
reactant | aluminum chloride | 164 mmole, 22 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrachloroethane | 100 ml | ClCC(Cl)(Cl)Cl | C2H2Cl4
solvent | water | O | H2O
product | 1,3-Dihydro-4-ethyl-5-nicotinoyl-2H-imidazole-2-one | C(C)C=1NC(NC1C(C1=CN=CC=C1)=O)=O | C11H11N3O2
